US04138581
Following the procedure described above in Example 15A but using cyclohexaneacetyl chloride instead of cyclohexanecarbonyl chloride the acylation product obtained is 3,4-bis(cyclohexaneacetoxy)phenyl tert-butylaminomethyl ketone; and when this product is catalytically hydrogenated, using the procedure described above in Example 15B, there is obtained 3,4-bis(cyclohexaneacetoxy)-alpha-(tert-butylaminomethyl)benzyl alcohol.

reactant | cyclohexaneacetyl chloride | C1(CCCCC1)CC(=O)Cl | C8H13ClO
reactant | 3,4-bis(cyclohexaneacetoxy)phenyl tert-butylaminomethyl ketone | C(C)(C)(C)NCC(=O)C1=CC(=C(C=C1)OC(CC1CCCCC1)=O)OC(CC1CCCCC1)=O | C28H41NO5
product | 3,4-bis(cyclohexaneacetoxy)-alpha-(tert-butylaminomethyl)benzyl alcohol | C1(CCCCC1)CC(=O)OC=1C=C(C(CNC(C)(C)C)O)C=CC1OC(CC1CCCCC1)=O | C28H43NO5
